US08304371B2
To a solution of 3-cyano-4-(1H-1,2,4-triazol-1-yl)-N-[(trimethylsilyl)methyl]benzene-carbothioamide (1.5 g) in THF was added t-BuOK (0.64 g) under cooling (0° C.). After stirring for 15 minutes, methyl iodide (0.81 g) was added dropwise to the mixture under cooling (0° C.). The reaction liquor was returned to room temperature and stirred for 2 hours. Water was added to the reaction mixture, and aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with a saturated aqueous sodium hydrogen carbonate solution, subsequently dried over magnesium sulfate. After filtering the reaction mixture, the solvent was distilled off under reduced pressure, and the resulting mixture was purified by silica gel chromatography, to obtain methyl 3-cyano-4-(1H-1,2,4-triazol-1-yl)-N-[(trimethylsilyl)methyl]benzenecarbimidothioate at a yield of 64%.

reactant | 3-cyano-4-(1H-1,2,4-triazol-1-yl)-N-[(trimethylsilyl)methyl]benzene-carbothioamide | 1.5 g | C(#N)C=1C=C(C=CC1N1N=CN=C1)C(NC[Si](C)(C)C)=S | C14H17N5SSi
reactant | t-BuOK | 0.64 g | CC(C)(C)[O-].[K+]
reactant | methyl iodide | 0.81 g | CI | CH3I
reactant | Water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | methyl 3-cyano-4-(1H-1,2,4-triazol-1-yl)-N-[(trimethylsilyl)methyl]benzenecarbimidothioate | yield of 64% | C(#N)C=1C=C(C=CC1N1N=CN=C1)C(=NC[Si](C)(C)C)SC | C15H19N5SSi
